US07300943B2
2-tert-Butyl-5-phenyl-2H-pyrazol-3-ylamine
To a slurry of tert-butylhydrazine hydrochloride (12.8 g, 102.9 mmol) in 350 mL of EtOH was added sodium hydroxide (3.5 g, 88.2 mmol). After 1 hr of stirring, a solution of 3-oxo-3-phenyl-propionitrile (10.6 g, 73.5 mmol, in 50 mL of EtOH) was added and the resulting slurry was heated to reflux. After 12 hr, the reaction was cooled to room temperature, filtered, and concentrated under reduced pressure. The resulting solid was washed with hexanes and dried under reduced pressure to give the title compound (13.1 g, 83% yield) as yellow-colored solid, which was used without further purification. LRMS m/z /(APCl) 216 (M+1); 500 MHz 1H NMR (CD3OD) δ 7.67 (d, J=7.5 Hz, 2H), 7.35-7.29 (m, 2H), 7.25-7.20 (m, 1H), 5.86 (s, 1H), 1.65 (S, 9H).

reactant | tert-butylhydrazine hydrochloride | 102.9 mmol, 12.8 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 88.2 mmol, 3.5 g | [OH-].[Na+]
reactant | 3-oxo-3-phenyl-propionitrile | 73.5 mmol, 50 mL, 10.6 g | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
solvent | EtOH | 350 mL | CCO | C2H6O
product | 2-tert-Butyl-5-phenyl-2H-pyrazol-3-ylamine | 13.1 g, 83% yield | C(C)(C)(C)N1N=C(C=C1N)C1=CC=CC=C1 | C13H17N3
